US05998470
a) α-isocyanato-L-leucine methyl ester
L-leucine methyl ester hydrochloride (25 g, 0.14 mol) was dissolved in methylene chloride (450 mL), cooled to 0° C., and pyridine (43.5 g, 0.55 mol, 44.5 mL) was added, then a 1.93 M solution of phosgene in toluene (0.18 mol, 92.7 mL) was added slowly. After stirring at 0° C. for 2 h, the mixture was poured into 0.5 N HCl (1400 mL) and ice (900 mL). The organic layer was washed with 0.5 N HCl (1400 mL) and ice (900 mL). The aqueous layers were extracted with methylene chloride (450 mL) and the combined organic layers were washed with saturated brine (1400 mL) and ice (900 mL), then dried (MgSO4), filtered and concentrated. The residue was distilled (56-58° C.; 0.78 mmHg) to provide the title compound as a colorless liquid (20.4 g, 86%). 1H NMR (250 MHz, CDCl3) δ 4.04 (dd, 1H), 3.82 (s, 3H), 1.92-1.72 (m, 1H), 1.69-1.62 (m, 2H), 0.96 (d, 3H), 0.94 (d, 3H).

reactant | L-leucine methyl ester hydrochloride | 0.14 mol, 25 g | Cl.COC([C@@H](N)CC(C)C)=O
reactant | pyridine | 0.55 mol, 44.5 mL, 43.5 g | N1=CC=CC=C1 | C5H5N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | toluene | 0.18 mol, 92.7 mL | C1(=CC=CC=C1)C | C7H8
reactant | HCl | 0.5 N, 1400 mL | Cl | ClH
solvent | methylene chloride | 450 mL | C(Cl)Cl | CH2Cl2
product | α-isocyanato-L-leucine methyl ester | 20.4 g, 86% | COC([C@@](N)(CC(C)C)N=C=O)=O | C8H14N2O3
